US05130119
(b) 4-[N-(4-Fluoro-3-trifluoromethylphenyl)-sulfamoyl]-benzoic acid-(2,3-dihydroxy-1- hydroxymethyl-propyl)-amide
2 g (3.95 mmol) of 4-[N-(4-fluoro-3-trifluoromethylphenyl)sulfamoyl]-benzoic acid-(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-amide as well as 2 ml of cation exchanger in H. form are added to a solution of 10 ml of ethanol and 5 ml of distilled water and warmed for 90 minutes on the water bath. It is filtered from the exchanger, rewashed with distilled water, evaporated to dryness in a vacuum, and again taken up in water and by freeze-drying of this solution, 1.55 g=84.2% of the theoretical yield is obtained as an amorphous solid.

reactant | 4-[N-(4-fluoro-3-trifluoromethylphenyl)sulfamoyl]-benzoic acid-(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-amide | 3.95 mmol, 2 g | OC1C(COC(OC1)(C)C)NC(C1=CC=C(C=C1)S(NC1=CC(=C(C=C1)F)C(F)(F)F)(=O)=O)=O | C21H22F4N2O6S
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 4-[N-(4-Fluoro-3-trifluoromethylphenyl)-sulfamoyl]-benzoic acid-(2,3-dihydroxy-1- hydroxymethyl-propyl)-amide | OC(C(CO)NC(C1=CC=C(C=C1)S(NC1=CC(=C(C=C1)F)C(F)(F)F)(=O)=O)=O)CO | C18H18F4N2O6S
